US05155130
The starting material is prepared as follows: A mixture of 5-bromosalicylaldehyde (10.3 g, 51.1 mmol) and potassium carbonate (7.0 g, 51.1 mmol) in 30 ml of 1,4-dioxane is treated with acrolein (4.3 g, 76.6 mmol). The mixture is heated at reflux for 2 hours and allowed to cool. This is partitioned between ether and water, and separated. The aqueous layer is extracted once with ether, and the organic phases are combined, dried (MgSO4) and evaporated. Flash chromatography (silica gel, 8% ethyl acetate/hexane) yields 6-bromo-2H-1-benzopyran-3-carboxaldehyde, m.p. 103°-104° C., which is converted to the final product as described above.

reactant | 5-bromosalicylaldehyde | 51.1 mmol, 10.3 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | potassium carbonate | 51.1 mmol, 7.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | acrolein | 76.6 mmol, 4.3 g | C(=O)C=C | C3H4O
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 6-bromo-2H-1-benzopyran-3-carboxaldehyde | BrC=1C=CC2=C(C=C(CO2)C=O)C1 | C10H7BrO2
